US08372379B2
2-(bis(2-(3,5-bis(methoxymethyl)-1H-pyrazol-1-yl)ethyl)amino)ethanol:
This compound has been obtained by reacting a solution of ethyl 2-(bis(2-(3,5-bis(methoxymethyl)-1H-pyrazol-1-yl)ethyl)amino)acetate (280 mg; 0.6 mmol) in dry THF (10 mL) with LiAlH4. The title compound was isolated following the same methodology above described for the synthesis of other (hydroxymethyl)pyrazoles (see example 6). Yield: 60% (170 mg, 0.4 mmol).

reactant | ethyl 2-(bis(2-(3,5-bis(methoxymethyl)-1H-pyrazol-1-yl)ethyl)amino)acetate | 0.6 mmol, 280 mg | COCC1=NN(C(=C1)COC)CCN(CC(=O)OCC)CCN1N=C(C=C1COC)COC | C22H37N5O6
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(bis(2-(3,5-bis(methoxymethyl)-1H-pyrazol-1-yl)ethyl)amino)ethanol | Yield: 60% | COCC1=NN(C(=C1)COC)CCN(CCO)CCN1N=C(C=C1COC)COC | C20H35N5O5
